US06660744B1
trans-3-Iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (266 mg, 0.604 mmol), 4-(anilinocarbonyl)-3-methoxyphenylboronic acid (180 mg, 0.664 mmol), palladium tetrakistriphenyphosphine (42 mg, 0.036 mmol) and sodium carbonate (154 mg, 1.449 mmol) were mixed with ethylene glycol dimethyl ether (8 mL) and water (4 mL). The reaction mixture was heated at reflux overnight. Organic solvent was removed under reduced pressure and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with water then brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using dichloromethane/methanol (95:5) as mobile phase to give trans-N1-phenyl-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxybenzamide (226 mg, 69%). 1H NMR (CDCl3) δ 1.58 (m, 4H), 2.17 (m, 7H), 2.32 (s, 3H), 2.52 (m, 2H), 2.69 (2.69, 3H), 4.16 (s, 3H), 4.78 (m, 1H), 5.49 (bs, 2H), 7.14 (m, 1H), 7.43 (m, 4H), 7.69 (m, 2H), 8.44 (m, 2H), 9.77 (s, 1H). LC/MS (Micromass-Column: Pecosphere, C18, 3 um, 33×4.6 mm. Eluents: 0% B/A to 100% B/A in 4.5 min.(B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 3.5 mL/min.): MH+ =541.2, Rt=2.61 min.

reactant | trans-3-Iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.604 mmol, 266 mg | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | 4-(anilinocarbonyl)-3-methoxyphenylboronic acid | 0.664 mmol, 180 mg | N(C1=CC=CC=C1)C(=O)C1=C(C=C(C=C1)B(O)O)OC | C14H14BNO4
reactant | sodium carbonate | 1.449 mmol, 154 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylene glycol dimethyl ether | 8 mL | COCCOC | C4H10O2
solvent | water | 4 mL | O | H2O
product | trans-N1-phenyl-4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxybenzamide | 226 mg, 69% | C1(=CC=CC=C1)NC(C1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)OC)=O | C30H36N8O2
